US07608639B2
3-{4-[3-(2-Bromo-4-trifluoromethyl-phenoxy)-5-fluoro-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester
A mixture of 3-[4-(3-fluoro-5-hydroxy-phenoxy)-2-methyl-phenyl]-propionic acid ethyl ester (0.557 g, 1.75 mmol), 3-bromo-4-fluorobenzotrifluoride (0.425 g, 1.75 mmol) and 325 mesh potassium carbonate (0.29 g, 2.10 mmol) in dry DMSO (10 mL) is heated to 100° C. and stirred 2.5 hours under N2. The reaction is cooled and acidified with 1 N HCl. The mixture is then diluted with Et2O and extracted with water. The organic layer is dried (Na2SO4), and the solvent is removed in vacuo to afford crude product that is absorbed on silica gel and purified by flash chromatography using 5/1 hexanes/ethyl acetate to afford 0.735 g (78%) of the title compound. 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C2H21O4F4Br 540, found 558 and 560 (M+NH4, 100%).

reactant | 3-[4-(3-fluoro-5-hydroxy-phenoxy)-2-methyl-phenyl]-propionic acid ethyl ester | 1.75 mmol, 0.557 g | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)O)F)C)=O | C18H19FO4
reactant | 3-bromo-4-fluorobenzotrifluoride | 1.75 mmol, 0.425 g | BrC=1C=C(C=CC1F)C(F)(F)F | C7H3BrF4
reactant | potassium carbonate | 2.10 mmol, 0.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | Et2O | CCOCC | C4H10O
product | 3-{4-[3-(2-Bromo-4-trifluoromethyl-phenoxy)-5-fluoro-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | 0.735 g, 78% | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)F)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C25H21BrF4O4
